US08022192B2
To a solution of 1-benzyloxycarbonyl-4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl-oxy)-1H-pyrazole (0.228 g) in methanol (5 mL) was added 10% palladium on carbon (50% wet: 0.40 g). In addition, the mixture was stirred under a hydrogen atmosphere at room temperature for 13 hours. The insoluble materials were removed by filtration through Celite®, and the filtrate was concentrated under reduced pressure to give 4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.186 g).

reactant | 1-benzyloxycarbonyl-4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyl-oxy)-1H-pyrazole | 0.228 g | C(C1=CC=CC=C1)OC(=O)N1N=C(C(=C1C(C)C)CC1=CC=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C47H64N2O12
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 0.40 g | [Pd] | Pd
product | 4-benzyl-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.186 g | C(C1=CC=CC=C1)C=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C39H58N2O10
